US05856326
Step B: 4-Bromo-1-(4-cyanobenzyl)-2-methylimidazole-5-carboxaldehyde
4-Cyanobenzylbromide (1.05 g, 5.39 mmol) was added to a solution of 4-bromo-2-methylimidazole-5-carboxaldehyde (1.02 g, 5.39 mmol) in dimethylacetamide (15 mL). The solution was cooled to -10° C. and powdered potassium carbonate (0.745 g, 5.39 mmol) added. The reaction was stirred at -10° C. for 2 h, and a further 4 h at 20° C. The reaction was diluted with water and extracted with ethyl acetate. The organic phase was washed with water, saturated brine, and dried over magnesium sulfate. Solvent evaporation yielded a white solid. 1H NMR (CDCl3, 400 MHz) δ 9.68 (1H, s), 7.64 (2H, d, J=7 Hz), 7.15 (2H, d, J=7 Hz) 5.59 (2H, s), 2.40 (3H, s).

reactant | 4-Cyanobenzylbromide | 5.39 mmol, 1.05 g | C(#N)C1=CC=C(CBr)C=C1 | C8H6BrN
reactant | 4-bromo-2-methylimidazole-5-carboxaldehyde | 5.39 mmol, 1.02 g | BrC=1N=C(NC1C=O)C | C5H5BrN2O
reactant | potassium carbonate | 5.39 mmol, 0.745 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylacetamide | 15 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | 4-Bromo-1-(4-cyanobenzyl)-2-methylimidazole-5-carboxaldehyde | BrC=1N=C(N(C1C=O)CC1=CC=C(C=C1)C#N)C | C13H10BrN3O
